US05236952
2.0 g of N'-[(3,4-dimethoxy-5-nitrobenzoyl)oxy]acetamidine are held at reflux temperature for 1 hour in 20 ml of glacial acetic acid. After distillation of the acetic acid, the crystalline residue is recrystallized from ether/hexane. There is obtained 5-(3,4-dimethoxy-5-nitrophenyl)-3-methyl-1,2,4-oxadiazole in the form of colorless crystals of m.p. 111°.

reactant | N'-[(3,4-dimethoxy-5-nitrobenzoyl)oxy]acetamidine | 2.0 g | COC=1C=C(C(=O)ON=C(C)N)C=C(C1OC)[N+](=O)[O-] | C11H13N3O6
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-(3,4-dimethoxy-5-nitrophenyl)-3-methyl-1,2,4-oxadiazole | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC(=NO1)C | C11H11N3O5
